US04593102
3-[(4-Chlorophenyl)sulfinyl]-N-[2-(diethylamino)ethyl]-1-pyrrolidinecarboxamide
A solution of 4.37 g (0.027 mole) of 1,1'-carbonyldiimidazole and 2.96 g (0.0255 mole) of N,N-diethylaminoethylamine in 200 ml of tetrahydrofuran was stirred at room temperature for 45 min. A solution of 4.78 g (0.0209 mole) of 3-[(4-chlorophenyl)sulfinyl]pyrrolidine (free base) in tetrahydrofuran was added and the solution was refluxed for 16 hr. The solvent was removed in vacuo and the resulting oil was dissolved in methylene chloride. The methylene chloride solution was extracted with water and was dried over magnesium sulfate. The solvent was removed in vacuo. The solid residue was recrystallized from a mixture of methylene chloride, ether and hexane to give 3.45 g (44.4%) of white crystals, m.p. 127.5°-130° C.

reactant | 1,1'-carbonyldiimidazole | 0.027 mole, 4.37 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diethylaminoethylamine | 0.0255 mole, 2.96 g | C(C)NN(NCC)CC | C6H17N3
reactant | 3-[(4-chlorophenyl)sulfinyl]pyrrolidine | 0.0209 mole, 4.78 g | ClC1=CC=C(C=C1)S(=O)C1CNCC1 | C10H12ClNOS
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-[(4-Chlorophenyl)sulfinyl]-N-[2-(diethylamino)ethyl]-1-pyrrolidinecarboxamide | 3.45 g, 44.4% | ClC1=CC=C(C=C1)S(=O)C1CN(CC1)C(=O)NCCN(CC)CC | C17H26ClN3O2S
